US08309546B2
Step 1: 5-Bromo-4-(trifluoromethyl)pyrimidin-2-amine
4-(Trifluoromethyl)pyrimidin-2-ylamine (2 g, 12.3 mmol) was suspended in chloroform (70 ml) followed by the addition of N-bromosuccinimide (3.3 g, 18.4 mmol) and the resulting mixture was stirred at 50° C. for 5 hours and then at room temperature for 15 hours. A mixture of methylene chloride (50 ml) and 1 M sodium hydroxide (50 ml) was added, the resulting mixture was stirred, and then the organic layer was fractionated and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (2.2 g, 75%) as a pale orange solid.

reactant | 4-(Trifluoromethyl)pyrimidin-2-ylamine | 12.3 mmol, 2 g | FC(C1=NC(=NC=C1)N)(F)F | C5H4F3N3
reactant | N-bromosuccinimide | 18.4 mmol, 3.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 1 M, 50 ml | [OH-].[Na+]
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-4-(trifluoromethyl)pyrimidin-2-amine | 2.2 g, 75% | BrC=1C(=NC(=NC1)N)C(F)(F)F | C5H3BrF3N3
